US05182284
A 2.3 g (8.64 mmoles) quantity of N,N,-dicyclohexylcarbodiimide was added to 20 ml of a solution of 2.0 g (7.35 mmoles) of N-decylpiperazine, 1.9 g (7.56 mmoles) of N-t-butoxycarbonylphenylglycine, 1.3 g (15.5 mmoles) of sodium hydrogen carbonate and 122 mg (1.0 mmole) of 4-dimethylaminopyridine in anhydrous methylene chloride. The mixture was stirred at room temperature for 12 hours. The precipitated crystals were collected by filtration and washed with methylene chloride. Mother liquor and the washings were concentrated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=15:1), giving 2.8 g (yield: 83%) of 1-(N-t-butoxycarbonylphenylglycyl)-4-decylpiperazine.

reactant | N-decylpiperazine | 7.35 mmoles, 2.0 g | C(CCCCCCCCC)N1CCNCC1 | C14H30N2
reactant | N-t-butoxycarbonylphenylglycine | 7.56 mmoles, 1.9 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | sodium hydrogen carbonate | 15.5 mmoles, 1.3 g | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 1.0 mmole, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(N-t-butoxycarbonylphenylglycyl)-4-decylpiperazine | 2.8 g, yield: 83% | C(C)(C)(C)OC(=O)N(CC(=O)N1CCN(CC1)CCCCCCCCCC)C1=CC=CC=C1 | C27H45N3O3
